US04354973
8-Chloro-6-(2-fluorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetic acid methyl ester
In one portion 2.0 g (6.4 mmol) of 8-chloro-6-(2-fluorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine was added to a solution of 0.9 g (8 mmol) of potassium t-butoxide in 30 ml of dimethylformamide which was cooled to 0°. After stirring for 15 min, 0.7 ml (7.5 mmol) of methyl bromoacetate was added. The mixture was stirred for 5 min, diluted with water and extracted with ether. The ether solution was washed with water, dried over anhydrous sodium sulfate and concentrated at reduced pressure to dryness. Purification of the residue by column chromatogrpahy gave a pale yellow oil.

reactant | 8-chloro-6-(2-fluorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine | 6.4 mmol, 2.0 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)F)=CNC3)C=C1 | C18H12ClFN2
reactant | potassium t-butoxide | 8 mmol, 0.9 g | CC(C)([O-])C.[K+]
reactant | methyl bromoacetate | 7.5 mmol, 0.7 ml | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-Chloro-6-(2-fluorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetic acid methyl ester | COC(CN1C=C2CN=C(C3=C(C2=C1)C=CC(=C3)Cl)C3=C(C=CC=C3)F)=O | C21H16ClFN2O2
